US07253195B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(3-isopropylamino-1-methyl-propyl)-[1,3,4]thiadiazol-2-yl]-amide
A mixture of 2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1-methyl-3-oxo-propyl)-[1,3,4]thiadiazol-2-yl]-amide (63 mg, 0.148 mmol), isopropylamine (0.2 ml) in dichloroethane (1 ml) and methylene chloride (1 ml) was stirred at r.t. for 10 min. Sodium cyanoborohydride (70 mg), acetic acid (0.1 ml), and sodium sulphate were added and the resulting mixture was stirred at 45-50° C. overnight. The mixture was quenched with water, basified with saturated sodium carbonate, extracted with methylene chloride. The organic layer was separated, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by Shimadzu HPLC to give the title compound LC-MS RT=1.7 min, M+1=467.9.

reactant | 2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1-methyl-3-oxo-propyl)-[1,3,4]thiadiazol-2-yl]-amide | 0.148 mmol, 63 mg | CC(CC=O)C1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C19H22F2N4O3S
reactant | isopropylamine | 0.2 ml | C(C)(C)N | C3H9N
reactant | Sodium cyanoborohydride | 70 mg | C(#N)[BH3-].[Na+]
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(3-isopropylamino-1-methyl-propyl)-[1,3,4]thiadiazol-2-yl]-amide | C(C)(C)NCCC(C)C1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C22H31F2N5O2S
